* voltage noise model
.SUBCKT noisevoltagesource Vnn Vnp
.param En 1E-9
.param En1f {En}
.param fc 1e3
.param trel 0
.param kB 1.380649E-23
*.param T 293.15
.param T {273.15+{temp}-{trel}}
B1 Vnp Vnm V=V(VRn1)*En
R1 VRn1 0 {1/(4*kB*T)}
B2 Vnm Vnn V=V(VRn1)*En1f Laplace=sqrt(fc*(2*pi)/s)
.measure NOISE t1 AVG {temp}
*.measure NOISE t2 PARAM T
*.backanno
.ENDS
